US04489003
A mixture of 23.7 g (0.131 mol) of 5-fluoro-isatoic acid anhydride, 13.23 g (0.131 mol) of L-azetidine-2-carboxylic acid and 150 ml of dimethyl sulphoxide is heated to 90° for 3 hours, subsequently evaporated in a high vacuum and the residue is heated in a high vacuum for 17 hours. By recrystallization from methanol there is obtained (S)-6-fluoro-1,10a-dihydroazeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione of melting point 216°-217°.

reactant | 5-fluoro-isatoic acid anhydride | 0.131 mol, 23.7 g | FC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4FNO3
reactant | L-azetidine-2-carboxylic acid | 0.131 mol, 13.23 g | C1CN[C@@H]1C(=O)O | C4H7NO2
solvent | dimethyl sulphoxide | 150 ml | CS(=O)C | C2H6OS
product | (S)-6-fluoro-1,10a-dihydroazeto[2,1-c][1,4]benzodiazepine-4,10(2H,9H)-dione | FC=1C=CC2=C(C(N3[C@H](C(N2)=O)CC3)=O)C1 | C11H9FN2O2
